US05728500
32.14 g (0.1 mol) of the above prepared 5-(N,N-diphenylamino)acenaphthene was dissolved in 300 ml of N,N-dimethylformamide, and 22.73 g (0.15 mol) of phosphorus oxychloride was dropwise added thereto at room temperature for 30 minutes. After raising the temperature to 50° C., the reaction mixture was stirred for 14 hours. The reaction was determined to be finished when disappearance of 5-(N,N-diphenylamino)acenaphthene was identified. The reaction product was poured into an aqueous solution having 45 g (1.05 mol) of 93% sodium hydroxide dissolved in 1000 ml of water. The resultant mixture was cooled to precipitate a crystal, and the crystal was filtrated, washed with water and dried to obtain 30.27 g (yield: 86.6%, melting point: 138.0°-141.0° C.) of 5-[N-(4-formylphenyl)-N-phenylamino]acenaphthene.

reactant | 5-(N,N-diphenylamino)acenaphthene | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C2CCC=3C=CC=C1C32 | C24H19N
reactant | phosphorus oxychloride | 0.15 mol, 22.73 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1.05 mol, 45 g | [OH-].[Na+]
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 1000 ml | O | H2O
product | 5-[N-(4-formylphenyl)-N-phenylamino]acenaphthene | 30.27 g, yield: 86.6% | C(=O)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=C2CCC=3C=CC=C1C32 | C25H19NO
